US07709472B2
(d) (±)-2-((1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]hept-6-yl)-1H-isoindole-1,3(2H)-dione
To a solution of (±)-(1S,5R,6R)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-ol (230 mg, 0.73 mmol) in THF (2 mL) as added DEAD (0.11 mL, 0.76 mmol), followed by dropwise addition of a preformed solution of PPh3 (190 mg, 0.72 mmol) and phthalimide-(107 mg, 0.73 mmol) in THF-dioxane (4 mL, 1:1). The resulting solution was heated at reflux. After 12 h, the solution was concentrated and the residue purified via a column chromatography (silica, 1% MeOH in DCM (1% NH4OH)) yielding the title compound (137 mg, 42%) as a yellow oil: LC/MS (ES) m/e 448 (M+H)+.

reactant | (±)-(1S,5R,6R)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]heptan-6-ol | 0.73 mmol, 230 mg | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]2C[C@H]([C@H]2C1)O)OC | C17H20FN3O2
reactant | DEAD | 0.76 mmol, 0.11 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | PPh3 | 0.72 mmol, 190 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | phthalimide- | 0.73 mmol, 107 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF dioxane | 4 mL | C1CCOC1.O1CCOCC1
product | (±)-2-((1S,5R,6S)-3-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-azabicyclo[3.2.0]hept-6-yl)-1H-isoindole-1,3(2H)-dione | 137 mg, 42% | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@H]2C[C@@H]([C@H]2C1)N1C(C2=CC=CC=C2C1=O)=O)OC | C25H23FN4O3
